US04902794
In the manner given in Example 1, a solution of 1,3-dihydro-7-nitro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to reflux with ethoxyacetic acid hydrazide to give 8-nitro-1-(ethoxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-7-nitro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1 | C15H10ClN3O2S
reactant | ethoxyacetic acid hydrazide | C(C)OCC(=O)NN | C4H10N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 8-nitro-1-(ethoxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)COCC)C3=C(C=CC=C3)Cl)C1 | C19H16ClN5O3
